US08309577B2
To a solution of (S)-1-(6-chloro-7-methoxyisoquinolin-3-yl)-3-((3-hydroxyquinuclidin-3-yl)methyl)thiourea (140 mg, 0.344 mmol) in DMF (2.5 mL) was added a solution of N,N′-methanediylidenedipropan-2-amine (101 mg, 0.800 mmol) in DMF (0.5 mL) and the resulting mixture was allowed to stand at room temperature for 10 days. The solvent was then evaporated in vacuo. The residue was dissolved in ˜5 mL MeOH (some white solid was filtered off, 09) and subjected to preparative HPLC purification followed by silica gel chromatography in 1% NH4OH/9% MeOH/90% CHCl3 to give 31 mg (24%) (R)—N-(6-chloro-7-methoxyisoquinolin-3-yl)-4H-1′-azaspiro[oxazole-5,3′-bicyclo[2.2.2]octan]-2-amine LCMS RT 1.04 min, MH+=373.2, 375.2 1H NMR (500 MHz, MeOD) δ ppm 8.78-8.89 (1H, m), 7.90-8.01 (1H, m), 7.14-7.23 (1H, m), 4.01 (3H, s), 3.95-3.99 (1H, m), 3.62-3.71 (1H, m), 3.19-3.25 (1H, m), 3.06-3.13 (1H, m), 2.90-3.00 (2H, m), 2.76-2.89 (2H, m), 2.10-2.21 (2H, m), 1.69-1.83 (2H, m), 1.56-1.68 (1H, m).

reactant | (S)-1-(6-chloro-7-methoxyisoquinolin-3-yl)-3-((3-hydroxyquinuclidin-3-yl)methyl)thiourea | 0.344 mmol, 140 mg | ClC=1C=C2C=C(N=CC2=CC1OC)NC(=S)NC[C@@]1(CN2CCC1CC2)O | C19H23ClN4O2S
reactant | N,N′-methanediylidenedipropan-2-amine | 0.800 mmol, 101 mg | C(=NC(C)C)=NC(C)C | C7H14N2
solvent | DMF | 2.5 mL | CN(C)C=O | C3H7NO
solvent | DMF | 0.5 mL | CN(C)C=O | C3H7NO
product | (R)—N-(6-chloro-7-methoxyisoquinolin-3-yl)-4H-1′-azaspiro[oxazole-5,3′-bicyclo[2.2.2]octan]-2-amine | 31 mg, 24% | ClC=1C=C2C=C(N=CC2=CC1OC)NC=1O[C@]2(CN3CCC2CC3)CN1 | C19H21ClN4O2
